US08669369B2
4: Preparation of 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido) phenoxy)picolinic acid A10
At room temperature, tert-butyl 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl) ureido)phenoxy)picolinate (1.4 g, 2.76 mmol) was dissolved in dichloromethane (20 mL). To the resulted solution, trifluoroacetic acid (20 mL) and triethylsilane (0.5 mL) were added. The resulted mixture was heated to 50° C. and stirred for 16 hours. The solvent was removed under reduced pressure, and water (50 mL) and ethyl acetate (70 mL) were added. The resulted mixture was separsted and the organic phase was removed. The aqueous layer was filtered and the solid was washed with water (30 mL×2). The solid was dried under vacumn to give the title compound (1.1 g, purity 97%, yield 90%) as a light green solid.

reactant | tert-butyl 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl) ureido)phenoxy)picolinate | 2.76 mmol, 1.4 g | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)OC(C)(C)C)C=C1)=O)C(F)(F)F | C24H21ClF3N3O4
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido) phenoxy)picolinic acid | 1.1 g, yield 90% | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)O)C=C1)=O)C(F)(F)F | C20H13ClF3N3O4
